US04886733
To 900 ml of dichloromethane contained in a 3 liter, 3-neck flask equipped with a mechanical stirrer, drying tube and thermometer and surrounded by an ice water bath was added 290.0 g (2.26 moles) naphthalene. To the stirred suspension was added 145.2 g (1.44 moles) of succinic anhydride. A total of 400 g of aluminum chloride was then added in small increments over the next 41/2 hours while stirring and cooling in an ice water bath. The resulting amber brown-yellow reaction mixture was stirred at room temperature overnight. Next morning it was poured on crushed ice and acidified with conc. hydrochloric acid. The aqueous portion was decanted and the organic layer was filtered to collect white solids. The solids were washed with dichloromethane containing 20% hexanes and slurried in 700 ml of boiling ethyl acetate. After cooling in a cold water bath, the solids were collected by filtration and washed with fresh ethyl acetate. Then the solids were recrystallized from 500 ml of glacial acetic acid and dried under vacuum to give 195.0 g (59.4% yield) of 4-(2naphthyl)-4-oxobutyric acid as an off-white solid. M.P. 171°-175° C.; M/e 229; λmax 282 nm (7,260) in ethanol.

reactant | naphthalene | 2.26 moles, 290.0 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | succinic anhydride | 1.44 moles, 145.2 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminum chloride | 400 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 900 ml | ClCCl | CH2Cl2
product | 4-(2naphthyl)-4-oxobutyric acid | 195.0 g, 59.4% yield | C1=C(C=CC2=CC=CC=C12)C(CCC(=O)O)=O | C14H12O3
